US05122523
71 mg of (4S,5RS)-3-benzyloxycarbonyl-4-cyclohexylmethyl-2,2-dimethyl-5-[(1RS)-1-hydroxy-2-piperidinoethyl]oxazolidine was dissolved in 1.5 ml of ethanol, and palladium black was added thereto. Then, hydrogenation was conducted at room temperature under atmospheric pressure. The catalyst was removed by filtration, and then the solvent was distilled off under reduced pressure to obtain 41 mg of (2RS,3RS,4S)-4-amino-5-cyclohexyl-1-piperidino-2,3-pentanediol as colorless oily substance.

reactant | (4S,5RS)-3-benzyloxycarbonyl-4-cyclohexylmethyl-2,2-dimethyl-5-[(1RS)-1-hydroxy-2-piperidinoethyl]oxazolidine | 71 mg | C(C1=CC=CC=C1)OC(=O)N1C(OC([C@@H]1CC1CCCCC1)C(CN1CCCCC1)O)(C)C | C27H42N2O4
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
catalyst | palladium black | [Pd] | Pd
product | (2RS,3RS,4S)-4-amino-5-cyclohexyl-1-piperidino-2,3-pentanediol | 41 mg | N[C@H](C(C(CN1CCCCC1)O)O)CC1CCCCC1 | C16H32N2O2
